US06939885B2
Synthesis of N-[4-Chloro-2-(6-methyl-pyridine-3-carbonyl)-phenyl]-4-isopropoxy-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-3-yl)methanone and 4-isopropoxy-benzenesulfonyl chloride and purified by HPLC. 1H NMR (CDCl3) δ 9.67 (br s, 1H, NH), 8.45 (d, 1H, J=1.8 Hz), 7.75 (d, 1H, J=8.8 Hz), 7.68 (dd, 1H, J=8.0 Hz, J=2.2 Hz), 7.55 (d, 2H, J=9.0 Hz), 7.50 (dd, 1H, J=8.8 Hz, J=2.6 Hz), 7.32 (d, 1H, J=2.6 Hz), 7.24 (d, 1H, J=8.0 Hz), 6.68 (d, 2H, J=9.0 Hz), 4.43 (septet, 1H, J=6 Hz), 2.65 (s, 3H), 1.28 (d, 3H, J=6 Hz). MS: m/z 445 (M+1).

reactant | (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-3-yl)methanone | NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)C | C13H11ClN2O
reactant | 4-isopropoxy-benzenesulfonyl chloride | C(C)(C)OC1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO3S
product | N-[4-Chloro-2-(6-methyl-pyridine-3-carbonyl)-phenyl]-4-isopropoxy-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(C)C)C(=O)C=1C=NC(=CC1)C | C22H21ClN2O4S
